US07427613B2
(2-Chlorobenzyl)cyclopropylamine
Synthesized according to typical procedures B and D from 2-chlorobenzoyl chloride and cyclopropylamine.

reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2-Chlorobenzyl)cyclopropylamine | ClC1=C(CNC2CC2)C=CC=C1 | C10H12ClN
